### PR TITLE
[Merged by Bors] - feat: arbitrary product of injective modules is injective

### PR DESCRIPTION
**Pull request by LiranShaul**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Injective.lean [hunk 1]
```diff
@@ -435,3 +436,36 @@ lemma Module.Injective.extension_property
   (Module.Baer.of_injective inj).extension_property f hf g
 
 end lifting_property
+
+section injective_products
+
+theorem pi (R : Type) [Ring R] {ι : Type} (M : ι → Type)
+  [∀ i, AddCommGroup (M i)] [∀ i, Module R (M i)]
+  [∀ i, Module.Injective R (M i)] :
+  Module.Injective R (∀ i, M i) := by
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/Injective.lean]:
```suggestion
    [∀ i, AddCommGroup (M i)] [∀ i, Module R (M i)]
    [∀ i, Module.Injective R (M i)] :
    Module.Injective R (∀ i, M i) := by
```
Indent 4 for the theorem statement.

File: Mathlib/Algebra/Module/Injective.lean [hunk 2]
```diff
@@ -435,3 +436,36 @@ lemma Module.Injective.extension_property
   (Module.Baer.of_injective inj).extension_property f hf g
 
 end lifting_property
+
+section injective_products
+
+theorem pi (R : Type) [Ring R] {ι : Type} (M : ι → Type)
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Injective.lean]:
```suggestion
theorem pi (R : Type*) [Ring R] {ι : Type*} (M : ι → Type*)
```
`R : Type*` means that `R` is a type in an arbitrary universe, while `Type` is syntax sugar for `Type 0`, the "zero"-th universe.

File: Mathlib/Algebra/Module/Injective.lean [hunk 3]
```diff
@@ -435,3 +436,36 @@ lemma Module.Injective.extension_property
...
+    [∀ i, AddCommGroup (M i)] [∀ i, Module R (M i)]
+    [∀ i, Module.Injective R (M i)] :
+    Module.Injective R (∀ i, M i) := by
+  constructor
+  intros X Y _ _ _ _ f hf g
+
+  -- For each i, extract the extension using `choose`
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Injective.lean]:
```suggestion
  intros X Y _ _ _ _ f hf g
  -- For each i, extract the extension using `choose`
```
We prefer not to have empty lines in proofs because it can be easily confused with the empty line between theorems. The comment is usually enough of a separator. 

(Same below)

File: Mathlib/Algebra/Module/Injective.lean [hunk 4]
```diff
@@ -435,3 +436,36 @@ lemma Module.Injective.extension_property
...
+  -- Build the extension into the product
+  let g_ext : Y →ₗ[R] ∀ i, M i := LinearMap.pi fun i => g_i_ext i
+
+  use g_ext
+  intro x
+
+  -- Pointwise equality for each component
+  funext i
+  let hg_i_pt := congr_fun (congr_arg DFunLike.coe (hgi_eq i)) x
+  exact hg_i_pt
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Injective.lean]:
```suggestion
 exact congr_fun (congr_arg DFunLike.coe (hgi_eq i)) x
```
And there is an advanced trick where you can write `exact congr($(hgi_eq i) x)` instead of building the congr term by hand.

File: Mathlib/Algebra/Module/Injective.lean [hunk 5]
```diff
@@ -435,3 +436,34 @@ lemma Module.Injective.extension_property
...
+
+  -- Build the extension into the product
+  let g_ext : Y →ₗ[R] ∀ i, M i := LinearMap.pi fun i => g_i_ext i
+
+  use g_ext
+  intro x
+
+  -- Pointwise equality for each component
+  funext i
+ exact congr_fun (congr_arg DFunLike.coe (hgi_eq i)) x
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Injective.lean]:
```suggestion
  exact congr_fun (congr_arg DFunLike.coe (hgi_eq i)) x
```
You have (or I had) the wrong indentation here.

File: Mathlib/Algebra/Module/Injective.lean [hunk 6]
```diff
@@ -435,3 +436,34 @@ lemma Module.Injective.extension_property
   (Module.Baer.of_injective inj).extension_property f hf g
 
 end lifting_property
+
+section injective_products
+
+theorem pi (R : Type*) [Ring R] {ι : Type*} (M : ι → Type*)
```
Comment (joelriou) [inline Mathlib/Algebra/Module/Injective.lean]: In mathlib writing style, we would probably write this as:
```lean
universe w in
instance Module.Injective.pi
    (R : Type u) [Ring R] {ι : Type w} (M : ι → Type v) [Small.{v} R]
    [∀ i, AddCommGroup (M i)] [∀ i, Module R (M i)]
    [∀ i, Module.Injective R (M i)] :
    Module.Injective R (∀ i, M i) :=
  ⟨fun X Y _ _ _ _ f hf g ↦ by
    choose l hl using fun i ↦ extension_property R _ _ _ f hf ((LinearMap.proj i).comp g)
    refine ⟨LinearMap.pi l, fun x ↦ ?_⟩
    ext i
    exact DFunLike.congr_fun (hl i) x⟩
```
Apart from long intricate proofs, it is not often very necessary to include many comments in the proof, as the tactics and names of the lemmas that are used give some information, and the interested reader should follow what is happening by looking at the "tactic state" in their user interface.

I have added the `Small.{v} R` assumption because of technicalities about the definition of `Module.Injective` for modules when the ring and the module are not in the same universe.

An important syntactic remark is that I have used the keyword `instance` rather than `lemma` or `theorem`, because `instance` is part of a mechanism which allows to find "assumptions" automatically. If this was a "theorem", we would have to invoke the particular name of this theorem in order to use it each time we need to use that a product of injectives is injective. By using the keyword "instance", each time we have the assumptions `∀ i, Module.Injective R (M i)` in our tactic state, the assumption `Module.Injective R (∀ i, M i)` will be found automatically if it is needed.

File: Mathlib/Algebra/Module/Injective.lean [hunk 7]
```diff
@@ -435,3 +436,19 @@ lemma Module.Injective.extension_property
   (Module.Baer.of_injective inj).extension_property f hf g
 
 end lifting_property
+
+section injective_products
+
```
Comment (joelriou) [inline Mathlib/Algebra/Module/Injective.lean]: Sections are usually used in order to give some structure to the file (but it is not important here as there is only one new declaration), or to introduce a bunch of variables there are common to multiple declarations:
```suggestion
```

File: Mathlib/Algebra/Module/Injective.lean [hunk 8]
```diff
@@ -435,3 +436,19 @@ lemma Module.Injective.extension_property
...
+    [∀ i, AddCommGroup (M i)] [∀ i, Module R (M i)]
+    [∀ i, Module.Injective R (M i)] :
+    Module.Injective R (∀ i, M i) :=
+  ⟨fun X Y _ _ _ _ f hf g ↦ by
+    choose l hl using fun i ↦ extension_property R _ _ _ f hf ((LinearMap.proj i).comp g)
+    refine ⟨LinearMap.pi l, fun x ↦ ?_⟩
+    ext i
+    exact DFunLike.congr_fun (hl i) x⟩
+
+end injective_products
```
Comment (joelriou) [inline Mathlib/Algebra/Module/Injective.lean]:
```suggestion
```
